data/oMe_Silver.jsonl
{"reaction_id": "NR-142_1-c1ccc(OC)cc1C_2-c1ccccc1_3-c1ccccc1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1ccc(OC)cc1C)(c1ccccc1)(c1ccccc1)"],"products_smiles": ["N(Oc1ccc(OC)cc1C)(c1ccccc1)(c1ccccc1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1ccc(OC)cc1C)(c1ccccc1)(c1ccccc1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1ccc(OC)cc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
{"reaction_id": "NR-224_1-C","level": "hard","name": "Pinner Reaction","reactants_smiles": ["C(C)#N"],"products_smiles": ["C(C)(=[NH2+])OCC"],"conditions": "HCl, EtOH","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)#[NH+]","step_weight": 0,"rationale": "Protonation of the nitrile nitrogen by HCl increases the electrophilicity of the adjacent carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(=[NH])[OH+](CC)","step_weight": 0,"rationale": "Ethanol, activated by the acidic medium, attacks the electrophilic nitrilium carbon, forming a tetrahedral intermediate stabilized by protonation."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(=[NH2+])OCC","step_weight": 0,"rationale": "Proton transfer to the nitrogen generates a more stable cationic imidate species, facilitating subsequent nucleophilic addition steps."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(N)([NH2])OCC","step_weight": 0,"rationale": "A second nucleophilic addition occurs as ammonia-like nitrogen attacks the electrophilic carbon, driven by the high reactivity of the imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(N)([NH2])[OH+]CC","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group by increasing its positive charge, preparing for elimination."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(N)=[NH2+]","step_weight": 0,"rationale": "Loss of the protonated hydroxyl group as water occurs readily under acidic conditions, driven by the stability of the resulting iminium ion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=C(N)C(C)","step_weight": 0,"rationale": "Final proton transfer neutralizes the product, yielding the imino ester salt stabilized by resonance between C=N and the adjacent nitrogen."}],"description": "Under strongly acidic conditions, the nitrile nitrogen is protonated, increasing electrophilicity at the carbon. Ethanol attacks, forming an imidate intermediate. Subsequent proton transfers and addition-elimination steps stabilize intermediates and expel leaving groups, yielding the imino ester (Pinner salt) product."}
